US08663955B2
Oxidation of 2,3-butanediol/acetoin (3-hydroxy-2-butanone) mixtures
Catalyst III was installed in a reactor having a reaction tube inside diameter of 15 mm to a fill level height of 1000 mm. The oxygen content at reactor entry was automatically controlled to 4.52 vol % by addition of pure oxygen at the point of reactor entry. The reaction feed added was a mixture of 10 g/h of a racemate (equimolar mixture of R- and S-form) of acetoin (3-hydroxy-2-butanone), hereinafter referred to as acetoin, and 89.6 g/h of a stereoisomer mixture having the following composition: about 15 wt % of R,R-2,3-butanediol, about 15 wt % of S,S-2,3-butanediol, about 70 wt % of meso-2,3-butanediol, hereinafter referred to as 2,3-butanediol. For absorption, 497 g/h of water were fed in recycle gas flow direction at a point directly upstream of the column head cooler of the absorption column. The recycle gas flow was adjusted such that the reactor reached a recycle gas flow of 5800 g/h in the stable state. The reactor was operated at 11*105 Pa pressure and 180° C. coolant temperature.

reactant | oxygen | O=O | O2
reactant | acetoin | OC(C(C)=O)C | C4H8O2
reactant | meso-2,3-butanediol | C[C@H]([C@H](C)O)O | C4H10O2
reactant | 2,3-butanediol | CC(C(C)O)O | C4H10O2
product | 2,3-butanediol acetoin | CC(C(C)O)O.OC(C(C)=O)C | InChI=1S/C4H10O2.C4H8O2/c2*1-3(5)4(2)6/h3-6H,1-2H3;3,5H,1-2H3
